Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / clindamycin / ciprofloxacin / adhesive / sulfa
 
Attending: ___.
 
Chief Complaint:
B Leg Swelling, R Leg Pain 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o woman with a PMH of HFpEF (EF 55% ___, Afib on 
Coumadin, h/o CVA ___ years ago without residual deficit, chronic 
kidney disease, peripheral vascular disease, hypertension, 
dementia, hyperlipidemia, who presents for evaluation of 
vascular insufficiency. 

According to the patient's daughter and son-in-law who are 
providing the history, she was in her USOH until about 3 weeks 
ago when she was admitted to ___ for acute decompensated 
diastolic CHF, LGIB related to internal hemorrhoids,
diverticulosis, severe PVD/PAD with associated cellulitis. 
During that admission, she was noted to have BLE cellulitis, 
with a blister on her LLE which spontaneously started draining 
prior to admission. She had been started on cephalexin as an 
outpatient, transitioned to vancomycin/unasyn (___) and 
then to cefpodoxime to complete 10 day Abx course (end date 
___. During that admission, she had BLE duplex U/S which 
were without evidence of DVT. CTA demonstrated severe BLE PAD 
with severe atherosclerosis in the abdominal aorta, without 
stenosis. She was discharged to rehab ___) with 
plans for outpatient vascular follow up. Of note, she was 
diuresed with IV Lasix, however diuresis was limited by ___ in 
setting of contrast load for CTA. TTE on ___ showed EF 55%.

She was reportedly seen in clinic today by Dr. ___ 
surgery phone # ___ who was concerned for worsening 
edema and possible vascular compromise, and referred her to the 
ED. 

In the ED, initial VS were:
98.5 85 132/100 18 92% RA 

Exam notable for:
-No acute distress. No jugular venous distention. HEENT 
unremarkable. Heart and lung sounds distant. Abdomen soft. There 
are symmetric peripheral edema with overlying erythema 
consistent with stasis dermatitis. There is a 2+ left lower 
extremity posterior tibial pulse. There is no palpable right 
lower extremity pulse, but the foot is warm with less than 2 
second capillary refill.

Bedside ultrasound:
The linear probe was used to evaluate for vascular flow in the 
right lower extremity. There is no flow in the dorsalis pedis. 
There is arterial flow in the posterior tibial artery.

ECG: Irregularly irregular rhythm, nl axis, nl intervals, no 
ST-T changes

Labs showed:
Hgb 10.6
proBNP 3607
Mg 1.5
BMP wnl

Imaging showed:
CXR: By my read, pulmonary vascular congestion, no focal 
consolidation, cardiomegaly

Consults: Vascular Surgery
Pain consistent with venous stasis ulcers. Review of CTA with R 
SFA disease, with distal reconstitution and three vessel disease 
bilaterally. Pulses dopplerable bilaterally. Recommend 
admission, start heparin gtt for anticoagulation pending 
interventions, non-invasive vascular studies.

Patient received:
Atorvastatin 80 mg 
IV Furosemide 40 mg 
IV Heparin 5000 UNIT, started @ 1600 units/hr

Transfer VS were:
98.5 85 132/100 18 92% RA 

On arrival to the floor, patient reports she is feeling well, 
without specific complaint. Denies fevers, chills, chest pain, 
shortness of breath. Her daughter feels that her breathing is 
near baseline, although she continues to have a residual O2 
requirement since discharge from ___ and does not think she 
could
lie flat. Prior to the above admission, she had been living with 
her daughter and son-in-law, was mobile around her home with a 
walker. 
 
Past Medical History:
IDDM, Type II
CKD
Atrial fibrillation
Rheumatoid arthritis
Hypertension
Diverticulosis
Internal hemorrhoids
HFpEF (EF 55%)
Dementia
 
Social History:
___
Family History:
Mother with DM. Father with alcoholism.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VS: 97.4 163/83 74 18 94% on 2L 
GENERAL: NAD, A&Ox2-3 (name, date, ___, not BI)
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVP not appreciated
CV: Regular rate, irregular rhythm, S1/S2, II/V systolic murmur
best heard at ___
PULM: Crackles bilaterally to mid-lung
GI: abdomen soft, +BS, mild diffuse tenderness, no
rebound/guarding. 
EXTREMITIES: 2+ edema to mid thighs bilaterally. Erythema
bilaterally within demarcated lines. Blister noted on LLE, no
drainage. Cool feet bilaterally, unable to palpate pulses
manually.
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, strength and sensation symmetric

=============================
DISCHARGE PHYSICAL EXAM
=============================
VS:
24 HR Data (last updated ___ @ 850)
    Temp: 97.7 (Tm 98.6), BP: 130/73 (118-167/70-78), HR: 70
(66-78), RR: 18 (___), O2 sat: 92% (90-92), O2 delivery: Ra  
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple
CV: irregularly irregular rhythm, S1/S2, II/V soft systolic
murmur heard best at ___,
___: Breathing comfortably without use of accessory muscles,
trace crackles at bilateral bases in posterior fields
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: Non-edematous. Calves wrapped in ace bandages,
feet cool and mottled with good cap refill. Erythema on b/l 
shins
within marked boarders.
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, A+Ox3
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 05:09PM BLOOD WBC-7.2 RBC-3.76* Hgb-10.6* Hct-36.4 
MCV-97 MCH-28.2 MCHC-29.1* RDW-18.3* RDWSD-62.0* Plt ___
___ 05:09PM BLOOD Glucose-193* UreaN-14 Creat-1.0 Na-146 
K-3.8 Cl-103 HCO3-29 AnGap-14
___ 05:09PM BLOOD proBNP-3607*

==========
STUDIES:
==========
ART DUP EXT LOW/BILAT COMP ___
 
Bilateral occlusion of the mid/distal superficial femoral, 
peroneal and 
dorsalis pedis arteries; and occlusion of right posterior tibial 
artery. 

ART EXT (REST ONLY) ___
  
Right leg has severe arterial disease with inflow and tibial 
disease heavy ABI is falsely elevated.  TBI has mild disease. 
  
Left leg has tibial disease with elevated ABIs.  TBI is normal 
on the left. 

 
Brief Hospital Course:
___ yo woman with PMH significant for PVD, HFpEF, and afib who 
presented with volume overload and bilateral lower extremity 
pain consistent with venous stasis. Vascular surgery did not see 
indication for intervention at this time. Patient also received 
IV Lasix for volume overload in the setting of congestive heart 
failure exacerbation and then was transitioned to an oral 
diuretic regimen.

ACTIVE ISSUES:
# ___ pain
# PVD
The patient has a history of PVD/PAD, recently admitted to ___ 
treated for BLE cellulitis with abx course ending ___, and 
was admitted this time with concern for acute limb ischemia in 
the setting of worsening ___ edema and pain. Throughout 
admission, her exam remained unchanged, with dopplerable pedal 
pulses bilaterally. She was initially on a heparin drip in 
preparation for possible vascular procedure, but after 
evaluation with non-invasive studies, Vascular Surgery on 
consult recommended that intervention was not indicated at this 
time and she was transitioned back to her home warfarin. She 
remained afebrile without worsening of her baseline skin changes 
and concern for recurrent cellulitis was also low. Her 
presentation was thought to be due to venous stasis and her 
baseline severe peripheral vascular disease.

# HFpEF
On her recent admission to ___ for ADHF possibly related to 
cellulitis per above, a TTE was done which showed EF 55%. Her 
diuresis was limited by acute on chronic kidney disease and pt 
was discharged to rehab on O2, which was a change from her 
baseline. On admission here, she had multiple signs of volume 
overload, including evidence of pulmonary edema on CXR and exam, 
elevated BNP, peripheral edema, elevated JVP, and continued 
oxygen requirement. She was treated with IV Lasix daily with 
good urine output and a reduction in weight from 213lb to 198.2. 
She was felt to be euvolemic and was discharged on a diuretic 
regimen of 60mg PO furosemide.

# CKD
Unknown baseline, although with peak BUN/Cr 60/5.23 on ___ in 
setting ___ on CKD thought related to CIN at ___. Cr here was 
1 on admission. Cr was relatively stable this admission, noted 
to be 1.2 day of discharge.

CHRONIC ISSUES:
===============
# Anemia
Unknown Hbg baseline. History of diverticulosis with hemorrhoids 
seen on colonoscopy on ___. Continued home iron supplements 
during admission. Hemoglobin remained stable, 11.2 on day of 
discharge.

# HTN
Amlodipine held at OSH due to worsening edema. Blood pressures 
remained within normal range. 

# Afib
# h/o CVA
History of A-fib on Coumadin as well as CVA ___ years ago without 
residual deficit. CHADS2VASC score of 9. Patient was initially 
placed on a heparin drip in preparation for possible vascular 
intervention, but was transitioned back to warfarin before 
discharge. HRs remained within normal limits without need for 
rate controlling agents.

# Diabetes
Patient was intitally on hospital insulin sliding scale, with 
the addition of glargine 10U during admission for persistently 
elevated blood sugars. She was re-started back on home insulin 
regimen on discharge.

TRANSITIONAL ISSUES:
=====================
DISCHARGE Cr/BUN: ___
DISCHARGE WEIGHT: 198.2 lb
DISCHARGE DIURETICS: 60mg PO Lasix

[] Please monitor volume status, weigh the patient every day. If 
appearing volume overloaded, or weight increases by more than 
3lbs in one day, consider increasing diuretic dose.

[] Please repeat chemistries within one week of discharge.

[] Blood sugars were persistently elevated this admission. 
Recommend monitoring FSBG, checking an A1c, and adjust insulin 
regimen as needed.

[] The patient has follow up with Vascular Surgery for 
management of peripheral vascular disease as discussed above.

#CODE: Full (confirmed)
#CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 80 mg PO QPM 
2. Humalog Mix ___ (Lispro Prot & Lispro) 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
3. Ferrous Sulfate 325 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Oxybutynin 10 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Warfarin 5.5 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
11. Senna 17.2 mg PO QHS:PRN Constipation - Second Line 
12. Fish Oil (Omega 3) 1000 mg PO TID 
13. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
14. Vitamin D 200 UNIT PO DAILY 
15. Ascorbic Acid ___ mg PO DAILY 
16. Donepezil 5 mg PO QHS 
17. Hydrocortisone Acetate Suppository ___ID 
18. Gabapentin 100 mg PO DAILY 
19. Floranex (Lactobacillus acidoph-L.bulgar) 2 tablet oral BID 

 
Discharge Medications:
1.  Furosemide 60 mg PO DAILY 
RX *furosemide 40 mg 1.5 tablet(s) by mouth once a day Disp #*45 
Tablet Refills:*0 
2.  Humalog Mix ___ (Lispro Prot & Lispro) 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
3.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Donepezil 5 mg PO QHS  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Fish Oil (Omega 3) 1000 mg PO TID  
10.  Floranex (Lactobacillus acidoph-L.bulgar) 2 tablet oral BID 
 
11.  Gabapentin 100 mg PO DAILY  
12.  Hydrocortisone Acetate Suppository ___ID  
13.  Multivitamins 1 TAB PO DAILY  
14.  Omeprazole 20 mg PO DAILY  
15.  Oxybutynin 10 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
17.  Senna 17.2 mg PO QHS:PRN Constipation - Second Line  
18.  Vitamin D 200 UNIT PO DAILY  
19.  Warfarin 5.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY
==========
Heart failure exacerbation
Peripheral vascular disease

SECONDARY
==========
Insulin dependent diabetes
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having leg pain related to poor blood flow
- You had too much water in your body, making it difficult to 
breathe

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given medication (Lasix) to remove extra water from 
your body
- You had imaging of your legs to look at the blood flow. The 
surgeons decided that there was nothing to do at this time. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please weigh yourself every day, call your doctor if your 
weight goes up by more than 3lbs in one day or 5lbs in two days.

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___